US07368578B2
To a mixture of methyl 5-formyl-2-hydroxybenzoate (21.76 g), triethylamine (13.46 g), ethyl acetate (300 mL) was added dropwise methanesulfonyl chloride (15.24 g) at 0° C., and the mixture was stirred at room temperature for 3 hr. The reaction mixture was washed successively with water, saturated aqueous sodium hydrogen carbonate, 1N hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated to give methyl 5-formyl-2-methanesulfonyloxybenzoate as a colorless oil (31.20 g, yield 100%).

reactant | methyl 5-formyl-2-hydroxybenzoate | 21.76 g | C(=O)C=1C=CC(=C(C(=O)OC)C1)O | C9H8O4
reactant | triethylamine | 13.46 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 15.24 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | methyl 5-formyl-2-methanesulfonyloxybenzoate | 31.20 g, yield 100% | C(=O)C=1C=CC(=C(C(=O)OC)C1)OS(=O)(=O)C | C10H10O6S
